US06436953B1
7. (7S, 8R, 9R)-2,3-Dimethyl-8-hydroxy-9-phenyl-7-(2-propoxy)-7,8,9,10-tetrahydro-imidazo[1,2-h][1,7]-naphthyridine
1 g of the title compound of melting point 168-9° C. is obtained by reaction of 3 g of 7R, 8R, 9R)-2,3-dimethyl-7,8-dihydroxy-9-phenyl-7,8,9,10-tetrahydro-imidazo[1,2-h][1,7]naphthyridine with 2-propanol according to Example 1, Method a.

reactant | 2,3-dimethyl-7,8-dihydroxy-9-phenyl-7,8,9,10-tetrahydro-imidazo[1,2-h][1,7]naphthyridine | CC=1N=C2N(C=CC=3C(C(C(NC23)C2=CC=CC=C2)O)O)C1C | C18H19N3O2
reactant | 2-propanol | CC(C)O | C3H8O
product | (7S, 8R, 9R)-2,3-Dimethyl-8-hydroxy-9-phenyl-7-(2-propoxy)-7,8,9,10-tetrahydro-imidazo[1,2-h][1,7]-naphthyridine | 1 g | CC=1N=C2N(C=CC=3[C@@H]([C@@H]([C@H](NC23)C2=CC=CC=C2)O)OC(C)C)C1C | C21H25N3O2
